US04760146
1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carbonyl chloride (5.22 g, 17.5 mmol) was treated with excess dimethylamine (10 g) in methylene chloride (100 ml) to afford 4.84 g (90% yield) of N,N-dimethyl-1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxamide as a viscous oil. The infrared spectrum had a carbonyl stretching frequency at 1660 cm-1 indicative of an amide which replaced the carbonyl stretch at 1790 cm-1 for the acid chloride. The tertiary amide isolated above (4.80 g, 15.1 mmol) was dissolved in DMF (25 ml) to which 10 ml of piperidine (excess) was added and the contents stirred at 50° C. under N2 for two days. The solution was concentrated in vacuo at 3 mm pressure. The resulting oil was dissolved in ethyl ether and washed with 2.5N aqueous HCl. The organic fraction was discarded. The aqueous phase was washed with 2.5N aqueous NaOH and extracted with ethyl ether. The combined organic fractions were dried over MgSO4, filtered and concentrated in vacuo to afford 5.38 g of a dark yellow viscous oil. Flash chromatography, employing 10% MeOH/CHCl3, as eluent, afforded 1.95 g of N,N-dimethyl-1-[3-(1-piperidinyl)propyl]-6-phenyl-3-cyclohexene-1-carboxamide as a tan solid, mp 105°-106° C.

reactant | 1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carbonyl chloride | 17.5 mmol, 5.22 g | ClCCCC1(CC=CCC1C1=CC=CC=C1)C(=O)Cl | C16H18Cl2O
reactant | dimethylamine | 10 g | CNC | C2H7N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-1-(3-chloropropyl)-6-phenyl-3-cyclohexene-1-carboxamide | 4.84 g, 90% yield | CN(C(=O)C1(CC=CCC1C1=CC=CC=C1)CCCCl)C | C18H24ClNO
